US08058431B2
1) 5-Fluoro-2,3-dimethyl-benzothiazol-3-ium iodide
13.0 g (10.4 ml, 77.7 mmol) 5-Fluoro-2-methyl-benzothiazole and 22.1 g (9.47 ml, 156 mmol) iodomethane were boiled in ethanol for 7 h. The residue was filtrated. 4.00 g=17% white powder

reactant | 5-Fluoro-2-methyl-benzothiazole | 77.7 mmol, 10.4 ml, 13.0 g | FC=1C=CC2=C(N=C(S2)C)C1 | C8H6FNS
reactant | iodomethane | 156 mmol, 9.47 ml, 22.1 g | IC | CH3I
solvent | ethanol | C(C)O | C2H6O
product | 5-Fluoro-2,3-dimethyl-benzothiazol-3-ium iodide | [I-].FC=1C=CC2=C([N+](=C(S2)C)C)C1 | InChI=1S/C9H9FNS.HI/c1-6-11(2)8-5-7(10)3-4-9(8)12-6;/h3-5H,1-2H3;1H/q+1;/p-1
